US04053601
A solution of methyl 3-[5-acetamido-2-(2,3-epoxypropoxy)benzoyl]propionate (0.52 g, 0.0016 mole), t-butylamine (20 ml) and methanol (10 ml) was heated under reflux for 16 hours. Evaporation of the reaction mixture left an oil which was dissolved in ethanol and treated with ether to give crystalline methyl 3-[5-acetamido-2-(3-t-butylamino-2-hydroxypropoxy)benzoyl]propionate (0.21 g, 33%; m.p. 127°-128°).

reactant | methyl 3-[5-acetamido-2-(2,3-epoxypropoxy)benzoyl]propionate | 0.0016 mole, 0.52 g | C(C)(=O)NC=1C=CC(=C(C(=O)CCC(=O)OC)C1)OCC1CO1 | C16H19NO6
reactant | t-butylamine | 20 ml | C(C)(C)(C)N | C4H11N
solvent | methanol | 10 ml | CO | CH4O
product | methyl 3-[5-acetamido-2-(3-t-butylamino-2-hydroxypropoxy)benzoyl]propionate | 0.21 g, 33% | C(C)(=O)NC=1C=CC(=C(C(=O)CCC(=O)OC)C1)OCC(CNC(C)(C)C)O | C20H30N2O6
